US04053601
3-[5-Acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine.
Reaction of 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione with hydrazine hydrate in boiling ethanol followed by evaporation of the reaction mixture under reduced pressure gave the title compound.

reactant | 6-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione | C(C)(=O)NC=1C=CC(=C(C1)C=1C=CC(NN1)=S)OCC(CNC(C)(C)C)O | C19H26N4O3S
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3-[5-Acetamido-2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine | C(C)(=O)NC=1C=CC(=C(C1)C=1N=NC(=CC1)NN)OCC(CNC(C)(C)C)O | C19H28N6O3
